US08349849B2
(S)-6-Heptyloxy-2-(1-methoxymethoxypropan-2-yl)quinazoline
(R)—N-(2-Formyl-4-heptyloxyphenyl)-3-methoxymethoxy-2-methylpropanamide (2.50 g, 0.00684 mol) was dissolved in methanol (200 mL, 5 mol), and cooled to −78° C., followed by ammonia (20 g, 1 mol) bubbling for 3 hours. The reaction mixture was then transferred to a pre-cooled high pressure reactor, and heated at 130° C. for 15 hours (310 psi). Solvent was removed, and the crude mixture was purified via chromatography (SiO2, 40 g, 0-60% ethyl acetate/hexanes) to give the desired product (1.78 g, 75%). 1H NMR (CHLOROFORM-d) δ: 9.26 (s, 1H), 7.90 (d, J=9.3 Hz, 1H), 7.52 (dd, J=9.2, 2.6 Hz, 1H), 7.10 (d, J=2.3 Hz, 1H), 4.55-4.68 (m, 2H), 4.02-4.16 (m, 3H), 3.85 (dd, J=9.4, 6.4 Hz, 1H), 3.45-3.61 (m, 1H), 3.27 (s, 3H), 1.79-1.95 (m, 2H), 1.45-1.57 (m, 2H), 1.27-1.45 (m, 9H), 0.91 (t, J=6.7 Hz, 3H). MS (M+1): 347.30.

reactant | (R)—N-(2-Formyl-4-heptyloxyphenyl)-3-methoxymethoxy-2-methylpropanamide | 0.00684 mol, 2.50 g | C(=O)C1=C(C=CC(=C1)OCCCCCCC)NC([C@@H](COCOC)C)=O | C20H31NO5
reactant | methanol | 5 mol, 200 mL | CO | CH4O
reactant | ammonia | 1 mol, 20 g | N | H3N
product | (S)-6-Heptyloxy-2-(1-methoxymethoxypropan-2-yl)quinazoline | 1.78 g, 75% | C(CCCCCC)OC=1C=C2C=NC(=NC2=CC1)[C@@H](COCOC)C | C20H30N2O3
